US04511393
110 g of 3,7-dichloro-8-cyanoquinoline, 500 ml of methanol and 500 ml of liquid ammonia were heated at 150° C. for 10 hours in an autoclave. The pressure was let down, after which the discharged mixture was filtered under suction, and the solid was recrystallized from methylglycol, in the presence of active charcoal. 54 g of 7-amino-3-chloro-8-cyanoquinoline of melting point 246° C. were obtained. Yield: 53% of theory.

reactant | 3,7-dichloro-8-cyanoquinoline | 110 g | ClC=1C=NC2=C(C(=CC=C2C1)Cl)C#N | C10H4Cl2N2
reactant | ammonia | N | H3N
solvent | methanol | 500 ml | CO | CH4O
product | 7-amino-3-chloro-8-cyanoquinoline | 54 g, Yield: 53% | NC1=CC=C2C=C(C=NC2=C1C#N)Cl | C10H6ClN3
